US04689327
A mixture of 1.81 g of N-methyl-2-{2-(2-chloroethyloxy)phenyl]thiazolidine-3-carboxamide, 0.97 g of N-phenylpiperazine, 0.83 g of potassium carbonate, 0.90 g of sodium iodide and 25 ml of dimethylformamide is stirred at 90° C. for 18 hours. The mixture is concentrated under reduced pressure to remove solvent. Water is added to the residue, and the aqueous mixture is extracted with ethyl acetate. The extract is washed with water, dried and then concentrated under reduced pressure to remove solvent. The residue is crystallized with isopropyl ether, and the crystals are recrystallized from a mixture of ethyl acetate and n-hexane. 1.48 g of N-methyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide are obtained. Yield: 57.8%

reactant | N-methyl-2-{2-(2-chloroethyloxy)phenyl]thiazolidine-3-carboxamide | 1.81 g | CNC(=O)N1C(SCC1)C1=C(C=CC=C1)OCCCl | C13H17ClN2O2S
reactant | N-phenylpiperazine | 0.97 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium carbonate | 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.90 g | [I-].[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-methyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide | 1.48 g, Yield: 57.8% | CNC(=O)N1C(SCC1)C1=C(C=CC=C1)OCCN1CCN(CC1)C1=CC=CC=C1 | C23H30N4O2S
